US07612079B2
(2-Chloro-9H-purin-6-yl)-indan-5-yl-amine
2,6-Dichloro-9H-purine (1.89 g, 10 mmol), 5-aminoindan (1.33 g, 10 mmol) and Et3N (2.79 mL, 20 mmol) were dissolved in BunOH (15 mL). The solution was stirred for 2 h at 90° C. After cooling, PriOH (90 mL) was added slowly with stirring. After 1 h the precipitate was filtered, washed successively with small quantities of PriOH and Pri2O, and dried in vacuo to afford the title compound as a lemon-coloured powder (1.54 g, 54.1%). TLC (80:15:5 CHCl3/MeOH/AcOH): RF=0.61.

reactant | 2,6-Dichloro-9H-purine | 10 mmol, 1.89 g | ClC1=NC(=C2N=CNC2=N1)Cl | C5H2Cl2N4
reactant | 5-aminoindan | 10 mmol, 1.33 g | NC=1C=C2CCCC2=CC1 | C9H11N
reactant | Et3N | 20 mmol, 2.79 mL | CCN(CC)CC | C6H15N
product | (2-Chloro-9H-purin-6-yl)-indan-5-yl-amine | 1.54 g, 54.1% | ClC1=NC(=C2N=CNC2=N1)NC=1C=C2CCCC2=CC1 | C14H12ClN5
